US07572805B2
Part G. (±)-cis-1-(tert-Butoxycarbonyl)-4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylic acid
To a solution of (±)-cis-1-tert-butyl 3-methyl 4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-1,3-dicarboxylate (0.90 g, 1.96 mmol) in 20 mL of 2:1 THF/H2O was added lithium hydroxide (52 mg, 2.15 mmol). The reaction mixture was allowed to stir at ambient temperature for 2 h. The reaction was partitioned between 1:1 hexane/EtOAc and dilute aq Na2CO3. The organic layer was discarded. The aqueous layer was acidified with 12 N HCl and extracted with EtOAc. The EtOAc layer was washed with brine, dried (MgSO4) and concentrated to afford 0.75 g (86%) of the title compound as a white foam, which was pure enough to be used without purification. LRMS (ES)+: 446 (M+H)+.

reactant | (±)-cis-1-tert-butyl 3-methyl 4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-1,3-dicarboxylate | 1.96 mmol, 0.90 g | C(C)(C)OC(=O)C1=C(C=CC=C1C(F)(F)F)[C@@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C22H28F3NO6
reactant | lithium hydroxide | 2.15 mmol, 52 mg | [OH-].[Li+]
solvent | THF H2O | 20 mL | C1CCOC1.O
product | (±)-cis-1-(tert-Butoxycarbonyl)-4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylic acid | 0.75 g, 86% | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](C1)C1=C(C(=CC=C1)C(F)(F)F)C(=O)OC(C)C)C(=O)O | C21H26F3NO6
